US07867980B2
5-(4-Bromophenyl)pyrimidine
5-Bromopyrimidine (954 mg, 6 mmol) and 1.0 g (5.0 mmol) of 4-bromophenylboronic acid were dissolved in 20 ml of N,N-dimethylformamide and 5 ml of water. Tetrakistriphenylphosphine palladium (590 mg, 0.5 mmol) and 830 mg (7.5 mmol) of sodium carbonate were added to the solution, and the mixture was stirred at 80° C. for 2.5 hr. Ethyl acetate (60 ml) and 8.5 ml of water were added to the reaction solution. The mixture was filtered through Celite. The filtrate as an organic layer was washed five times with 30 ml of water. The organic layer was dried over anhydrous sodium sulfate and was filtered. The solvent was then removed by distillation, and the residue was purified by column chromatography on silica gel (n-hexane:ethyl acetate=5:1) to give 960 mg (yield 82%) of the title compound.

reactant | 5-Bromopyrimidine | 6 mmol, 954 mg | BrC=1C=NC=NC1 | C4H3BrN2
reactant | 4-bromophenylboronic acid | 5.0 mmol, 1.0 g | BrC1=CC=C(C=C1)B(O)O | C6H6BBrO2
reactant | sodium carbonate | 7.5 mmol, 830 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | Ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 5 ml | O | H2O
solvent | water | 8.5 ml | O | H2O
product | 5-(4-Bromophenyl)pyrimidine | 960 mg, yield 82% | BrC1=CC=C(C=C1)C=1C=NC=NC1 | C10H7BrN2
